US07378427B2
N-{4′-Fluoro-2′-[(R)-1-hydroxyethyl]-1,1′-biphenyl-2-yl}-4-methoxybenzenesulfonamide
N-{4′-Fluoro-2′-[(R)-1-hydroxyethyl]-1,1′-biphenyl-2-yl }-4-methoxy-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide (0.28 g, 0.51 mmol) was dissolved in tetrahydrofuran (10 mL) and tetrabutylammonium fluoride in tetrahydrofuran (1.0 M, 0.76 mL, 0.76 mmol) was added. The solution was heated at reflux for six hours. The solution was concentrated in vacuo and the mixture was dissolved in ethyl acetate and washed with water. The solution was dried over anhydrous magnesium sulfate and the solvent was removed in vacuo. The product was passed through a silica gel plug (5:1 hexane: ethyl acetate followed by 1:1 hexane:ethyl acetate) to yield the title compound as a solid (0.135 g, 66% ), m.p. 137-138° C. The NM spectrum of the title compound was consistent with rotamers. The peaks attributed to individual rotamers in the 1H NMR spectrum coalesced at 90° C.

reactant | N-{4′-Fluoro-2′-[(R)-1-hydroxyethyl]-1,1′-biphenyl-2-yl }-4-methoxy-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide | 0.51 mmol, 0.28 g | FC1=CC(=C(C=C1)C1=C(C=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)OC)COCC[Si](C)(C)C)[C@@H](C)O | C27H34FNO5SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.76 mmol, 1.0 M, 0.76 mL | O1CCCC1 | C4H8O
product | N-{4′-Fluoro-2′-[(R)-1-hydroxyethyl]-1,1′-biphenyl-2-yl}-4-methoxybenzenesulfonamide | 0.135 g, 66% | FC1=CC(=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC)[C@@H](C)O | C21H20FNO4S
